US06472386B1
Synthesis of 4-(2-Methanesulfonyloxyethyl)-2-(3,4,5-trimethoxyphenyl)thiazole
4-(2-Hydroxyethyl)-2-(3,4,5-trimethoxyphenyl)-thiazole (1.60 g) was dissolved in pyridine (15 mL), and to the solution methanesulfonyl chloride (807 mg) was added at 0° C., and the mixture was stirred for 1.5 hours. The reaction mixture was diluted with ethyl acetate, washed with 2 M hydrochloric acid, water and saturated brine and dried over anhydrous sodium sulfate. After concentrating the reaction mixture under reduced pressure, the residue was purified by column chromatography on silica gel (ethyl acetate) to obtain the title compound.

reactant | 4-(2-Hydroxyethyl)-2-(3,4,5-trimethoxyphenyl)-thiazole | 1.60 g | OCCC=1N=C(SC1)C1=CC(=C(C(=C1)OC)OC)OC | C14H17NO4S
reactant | methanesulfonyl chloride | 807 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-Methanesulfonyloxyethyl)-2-(3,4,5-trimethoxyphenyl)thiazole | CS(=O)(=O)OCCC=1N=C(SC1)C1=CC(=C(C(=C1)OC)OC)OC | C15H19NO6S2
